US07148229B2
Crude 6-amino-1,3-dimethyl-5-nitroso-1H-pyrimidine-2,4-dione (5 mmol) was suspended in water (7 mL) at 40° C. and treated with sodium dithionite (17.5 mmol). After 20 minutes at 40° C. the reaction mixture was warmed to 80° C. for 30 mins and then cooled in ice for 30 mins. The precipitate was isolated by filtration, washed with cold water and dried in vacuo to give crude 5,6-diamino-1,3-dimethyl-1H-pyrimidine-2,4-dione as a light beige solid which was of sufficient purity for subsequent use without additional purification (80%).

reactant | 6-amino-1,3-dimethyl-5-nitroso-1H-pyrimidine-2,4-dione | 5 mmol | NC1=C(C(N(C(N1C)=O)C)=O)N=O | C6H8N4O3
reactant | sodium dithionite | 17.5 mmol | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 7 mL | O | H2O
product | 5,6-diamino-1,3-dimethyl-1H-pyrimidine-2,4-dione | NC=1C(N(C(N(C1N)C)=O)C)=O | C6H10N4O2
